US08227499B2
Phenyl-o-tolyl-(3-trityl-3H-imidazol-4-yl)-methanol, (Intermediate 8) (620 g, 1.2 mmol) in dichloromethane (30 mL) was reacted with TFA: trifluoroacetic acid (4.0 ml) and triethylsilane (TES) (6.0 ml) at rt for 24 h. The mixture was evaporated under reduced pressure and quenched with solid NaHCO3. This material was subjected to an aqueous work-up and the residue was purified by chromatography on silica gel with 5% NH3-MeOH:CH2Cl2 to yield 5-(Phenyl-o-tolyl-methyl)-1H-imidazole 162 mg (53%). 1HNMR (CD3OD, 300 MHz) δ 7.8 (s, 1H), 7.12-7.38 (m, 9H), 6.82 (s, 1H), 6.40 (s, 1H), 5.60 (s, 1H), 2.21 (s, 1H).

reactant | Phenyl-o-tolyl-(3-trityl-3H-imidazol-4-yl)-methanol | C1(=CC=CC=C1)C(O)(C=1N(C=NC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C36H30N2O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoroacetic acid | 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 6.0 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-(Phenyl-o-tolyl-methyl)-1H-imidazole | 162 mg, 53% | C1(=CC=CC=C1)C(C1=CN=CN1)C1=C(C=CC=C1)C | C17H16N2
